US09145387B2
3-(4-(2-acrylamido-4-fluorophenylamino)-5-chloropyrimidin-2-ylamino)-4-cyanobenzamide
Compound I-207 was prepared according to the step described below. To a stirred solution of N-(2-((2,5-dichloropyrimidin-4-yl)amino)-5-fluorophenyl)acrylamide (200 mg, 0.613 mmol), which was prepared using N-(2-amino-5-fluorophenyl)acrylamide and 2,4,5-trichloropyrimidine in a method similar to step 1 of Example 162, in tert-amyl alcohol (5 mL) was added aqueous sodium carbonate (96 mg, 0.905 mmol), 3-amino-4-cyanobenzamide (100 mg, 0.324 mmol) and diphenylphosphino-N,N-dimethylamine (125 mg, 0.919 mmol). The mixture was degassed for 20 min. To this mixture, Pd2(dba)3 (625 mg, 0.733 mmol) and Davephos (96 mg, 0.244 mmol) were added and again degassed for 10 min. The reaction mixture was heated to 90° C. for 2 h. TLC showed completion of starting material. The crude mixture was purified by silica gel column chromatography followed by preparative HPLC to yield 30 mg of the title compound. MS m/z: 452.1 (ES+, M+H); 1HNMR (DMSO-d6) δ 5.77-5.80 (dd, 1H J=2.0 Hz and 10.2 Hz), 6.26-6.31 (dd, 1H J=1.9 Hz and 17 Hz), 6.46-6.52 (dd, 1H J=10.2, 17 Hz), 6.90-6.95 (dt, 3.0, 8.4 Hz), 7.38-7.41 (dd, 1H J=3.0, 10.4 Hz), 7.56-7.64 (m, 3H), 7.78 (d, 1H J=8.1 Hz), 7.96 (d, 1H J=1.2 Hz), 8.10-8.12 (m, 2H), 8.5 (s, 1H), 9.4 (s, 1H), 10.02 (s, 1H). MS m/z: 452.1 (ES+, M+H).

reactant | N-(2-((2,5-dichloropyrimidin-4-yl)amino)-5-fluorophenyl)acrylamide | 0.613 mmol, 200 mg | ClC1=NC=C(C(=N1)NC1=C(C=C(C=C1)F)NC(C=C)=O)Cl | C13H9Cl2FN4O
reactant | N-(2-amino-5-fluorophenyl)acrylamide | NC1=C(C=C(C=C1)F)NC(C=C)=O | C9H9FN2O
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 0.905 mmol, 96 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-4-cyanobenzamide | 0.324 mmol, 100 mg | NC=1C=C(C(=O)N)C=CC1C#N | C8H7N3O
reactant | diphenylphosphino-N,N-dimethylamine | 0.919 mmol, 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)N(C)C | C14H16NP
reactant | Davephos | 0.244 mmol, 96 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
solvent | tert-amyl alcohol | 5 mL | C(C)(C)(CC)O | C5H12O
catalyst | Pd2(dba)3 | 0.733 mmol, 625 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-(2-acrylamido-4-fluorophenylamino)-5-chloropyrimidin-2-ylamino)-4-cyanobenzamide | 30 mg | C(C=C)(=O)NC1=C(C=CC(=C1)F)NC1=NC(=NC=C1Cl)NC=1C=C(C(=O)N)C=CC1C#N | C21H15ClFN7O2
